US05958942
i) 5-[N-tert-butoxycarbonyl-N-(4-trifluoroacetamido butan-1-yl)aminomethyl]imidazo[1,2-a]pyridine
To a solution of 29.38 g (93.47 mmol) of 5-[N-(4-trifluoroacetamidobutan-yl)aminomethyl]imidazo[1,2-a] pyridine in 200 ml of ethanol was added 20.40 g (93.47 mmol) of di-tert-butyl dicarbonate. The mixture was stirred for one hour at room temperature. The solvent was then distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent; dichloromethane:methanol=20:1) to afford 30.12 g of the desired compound (77.8%, a colorless liquid).

reactant | 5-[N-(4-trifluoroacetamidobutan-yl)aminomethyl]imidazo[1,2-a] pyridine | 93.47 mmol, 29.38 g | FC(C(=O)NCCCCNCC1=CC=CC=2N1C=CN2)(F)F | C14H17F3N4O
reactant | di-tert-butyl dicarbonate | 93.47 mmol, 20.40 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-[N-tert-butoxycarbonyl-N-(4-trifluoroacetamido butan-1-yl)aminomethyl]imidazo[1,2-a]pyridine | 30.12 g | C(C)(C)(C)OC(=O)N(CCCCNC(C(F)(F)F)=O)CC1=CC=CC=2N1C=CN2 | C19H25F3N4O3
